US07704995B2
Methyl 3-amino-6-bromo-pyrazine-2-carboxylate:
Commercially available methyl 3-amino-pyrazine-2-carboxylate (available from Aldrich Chemical Company) was brominated using a procedure similar to that of Russ, T., Ried, W., Ullrich, F., and Mutschler, E. Arch. Pharm. (Weinheim) 1992, 325, 761-767. To a solution of methyl 3-amino-2-pyrazine carboxylate (30.0 g, 200 mmol) in acetic acid (200 mL), bromine (11 mL) was added slowly via addition funnel. After complete addition of bromine, sodium carbonate powder was added slowly until precipitation occurred. The reaction mixture was allowed to stir at room temperature for 2 h. The reaction mixture was reduced to half-volume in vacuo and then diluted with water (500 mL). The reaction mixture was shaken vigorously and the resulting solid was collected using vacuum filtration. The solid was washed with ether to afford a pure yellow solid (91% yield).

reactant | methyl 3-amino-pyrazine-2-carboxylate | NC=1C(=NC=CN1)C(=O)OC | C6H7N3O2
reactant | methyl 3-amino-2-pyrazine carboxylate | 200 mmol, 30.0 g | NC=1C(=NC=CN1)C(=O)OC | C6H7N3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 11 mL | BrBr | Br2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | water | 500 mL | O | H2O
product | Methyl 3-amino-6-bromo-pyrazine-2-carboxylate | 91% yield | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
